US09061994B1
Synthesis of trans-3-(1H-indol-3-yl)-1-(3-pyridinyl)-2-propen-1-one (11)
Indole-3-carboxaldehyde (100 mg, 0.69 mmol) was added to a dried 100 mL round bottom flask and dissolved in anhydrous methanol (5 mL). 3-Acetyl-pyridine (113 μL, 1.03 mmol, 1.5 equiv.) and piperidine (69 μL, 0.7 mmol) were added and the reaction stirred under reflux. After twelve hours, the reaction was cooled to room temperature, upon which a precipitate formed. The solid was filtered, yielding 54 mg. However, there was significant aldehyde present on a crude NMR. This mixture was dry-loaded onto silica and purified by column chromatography (methylene chloride:methanol 9:1), producing 33 mg pure, yellow solid (19%). NMR: 1H NMR (600 MHz, d6-DMSO): δ 12.004 (s, 1H, N—H), 9.292-9.289 (d, J=1.8, 1H, pyr-H2), 8.808-8.797 (dd, J1=4.8, J2=1.8, 1H, pyr-H6), 8.467-8.447 (dt, J1=7.8, J2=2.1, 1H, pyr-H4), 8.174 (s, 1H, indole-H2), 8.154-8.140 (dd, J1=6.6, J2=1.8, 1H, indole-H4), 8.120-8.095 (d, J=15.0, 1H, C═CH), 7.665-7.639 (d, J=15.6, 1H, C═CH), 7.607-7.585 (m, 1H, pyr-H5), 7.506-7.492 (dd, J1=6.9, J2=1.5, 1H, indole-H7), 7.268-7.223 (qd, J1=6.6, J2=1.5, 1H, indole-H5,6). 13C NMR (150 MHz, d6-DMSO): δ 187.9, 152.7, 149.3, 139.9, 137.6, 135.7, 134.1, 133.7, 125.1, 123.9, 122.9, 121.3, 120.7, 115.0, 112.9, 112.5. Melting Point: 192-194° C. TLC (methylene chloride:methanol 9:1) Rf=0.26. Elemental analysis calculated for C16H12N2O: C, 77.40; H, 4.87; N, 11.28. found: C, 77.00; H, 4.80; N, 11.12.

reactant | Indole-3-carboxaldehyde | 0.69 mmol, 100 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 3-Acetyl-pyridine | 1.03 mmol, 113 μL, 1.5 equiv. | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | piperidine | 0.7 mmol, 69 μL | N1CCCCC1 | C5H11N
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | methanol | 5 mL | CO | CH4O
product | trans-3-(1H-indol-3-yl)-1-(3-pyridinyl)-2-propen-1-one | N1C=C(C2=CC=CC=C12)/C=C/C(=O)C=1C=NC=CC1 | C16H12N2O
